US05202312
N-(3-Pivaloyl-2-benzylcarbazoyl)-N'-benzylhydrazine and L-histidine methyl ester are treated in the same manner as described in Example 13 to give 3 (3-pivaloyl-2-benzylcarbazoyl)-2-benzylcarbazoyl-L-histidine methyl ester.

reactant | N-(3-Pivaloyl-2-benzylcarbazoyl)-N'-benzylhydrazine | C(C(C)(C)C)(=O)NN(C(=O)NNCC1=CC=CC=C1)CC1=CC=CC=C1 | C20H26N4O2
reactant | L-histidine methyl ester | COC([C@@H](N)CC1=CNC=N1)=O | C7H11N3O2
product | (3-pivaloyl-2-benzylcarbazoyl)-2-benzylcarbazoyl-L-histidine methyl ester | COC([C@@H](N(C(N(N)CC1=CC=CC=C1)=O)C(N(NC(C(C)(C)C)=O)CC1=CC=CC=C1)=O)CC1=CNC=N1)=O | C28H35N7O5
